US06774136B2
The reaction of 32.0 ml (0.213 mol) dimethylamine solution and 8.0 ml (0.079 mol) benzaldehyde in accordance with general synthesis instructions 1 and subsequent reaction with 4.7 ml (0.079 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 9.5 g (corresponding to 70.7% of the yield calculated by theory) benzylidene-dimethyl-ammonium chloride.

reactant | dimethylamine | 0.213 mol, 32.0 ml | CNC | C2H7N
reactant | benzaldehyde | 0.079 mol, 8.0 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetyl chloride | 0.079 mol, 4.7 ml | C(C)(=O)Cl | C2H3ClO
product | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C | InChI=1S/C9H12N.ClH/c1-10(2)8-9-6-4-3-5-7-9;/h3-8H,1-2H3;1H/q+1;/p-1
